US08476253B2
tert-Butyl [3-(isopropylamino)propyl]methylcarbamate
tert-Butyl (3-hydroxypropyl)methylcarbamate (430 mg, 2.27 mmol) was dissolved in dichloromethane (5 mL), triethylamine (0.633 mL, 4.55 mmol) and methanesulfonyl chloride (0.262 mL, 3.41 mmol) were added under ice cooling, and the mixture was stirred at the same temperature for 10 minutes. Isopropylamine (1.3 g, 23 mmol) was further added, and then the mixture was stirred overnight at room temperature. After the reaction was completed, a saturated aqueous sodium hydrogencarbonate solution was added, the mixture was extracted with methylene chloride (×3), and the resulting organic layer was dried with anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by NH silica gel column chromatography (elution solvents, n-hexane:ethyl acetate=9:1→1:1, v/v) to give the title compound (362 mg; yield, 73%).

reactant | tert-Butyl (3-hydroxypropyl)methylcarbamate | 2.27 mmol, 430 mg | OCCCN(C(OC(C)(C)C)=O)C | C9H19NO3
reactant | triethylamine | 4.55 mmol, 0.633 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.41 mmol, 0.262 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Isopropylamine | 23 mmol, 1.3 g | C(C)(C)N | C3H9N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-Butyl [3-(isopropylamino)propyl]methylcarbamate | 362 mg, 73% | C(C)(C)NCCCN(C(OC(C)(C)C)=O)C | C12H26N2O2
